US09120822B2
Triethylamine (13 μL, 0.09 mmol, 1.2 eq) is added at room temperature to a stirred solution of 6-methoxy-2H-1-oxa-9-aza-phenanthrene-3-carboxylic acid (20 mg, 0.08 mmol, 1.0 eq) in dichloromethane (1 mL), followed by a solution of diphenylphosphoryl azide (23 mg, 0.08 mmol, 1.0 eq) in toluene (1.5 mL). After 1 h 30 stirring at 80° C., 6M hydrochloric acid aqueous solution (0.5 mL) is added and the resulting mixture is heated at 90° C. for 2 hours. The reaction mixture is then cooled down to room temperature and extracted with ethyl acetate (3×10 mL) and saturated sodium hydrogen carbonate aqueous solution (10 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: ethyl acetate) to afford 6-methoxy-4H-1-oxa-9-aza-phenanthrene-3-one as a yellow semisolid (5 mg, 28% yield).

reactant | Triethylamine | 0.09 mmol, 13 μL, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | 6-methoxy-2H-1-oxa-9-aza-phenanthrene-3-carboxylic acid | 0.08 mmol, 20 mg, 1.0 eq | COC=1C=C2C=3C=C(COC3C=NC2=CC1)C(=O)O | C14H11NO4
reactant | diphenylphosphoryl azide | 0.08 mmol, 23 mg, 1.0 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | hydrochloric acid | 6M, 0.5 mL | Cl | ClH
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | 6-methoxy-4H-1-oxa-9-aza-phenanthrene-3-one | 5 mg, 28% yield | COC=1C=C2C=3CC(COC3C=NC2=CC1)=O | C13H11NO3
